US08802670B2
To a solution of 4-(2-Oxo-pyrrolidin-1-ylmethyl)-piperidine-1-carboxylic acid tert-butyl ester in dichloromethane was added 2M hydrogen chloride in ether (1.78 ml). The reaction mixture was stirred at room temperature for 6 hours. The solvents were removed in vacuo to yield 1-Piperidin-4-ylmethyl-pyrrolidin-2-one hydrochloride salt.

reactant | 4-(2-Oxo-pyrrolidin-1-ylmethyl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)CN1C(CCC1)=O | C15H26N2O3
reactant | hydrogen chloride | 2M | Cl | ClH
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | ether | 1.78 ml | CCOCC | C4H10O
product | 1-Piperidin-4-ylmethyl-pyrrolidin-2-one hydrochloride salt | Cl.N1CCC(CC1)CN1C(CCC1)=O | InChI=1S/C10H18N2O.ClH/c13-10-2-1-7-12(10)8-9-3-5-11-6-4-9;/h9,11H,1-8H2;1H
